US04234594
5-Amino-1(3-trifluoromethylphenyl)-3-methylpyrazole hydrochloride
3-Trifluoromethylphenyl hydrazine (Tetrahedron, 1960, 69) (25.0 g.) was reacted with 3-amino-2-butene nitrile (12.7 g.) as described in Example XLIII to give 36.1 g. product as HCl salt, mp 222°-226°.

reactant | 3-Trifluoromethylphenyl hydrazine | 25.0 g | FC(C=1C=C(C=CC1)NN)(F)F | C7H7F3N2
reactant | 3-amino-2-butene nitrile | 12.7 g | NC(=CC#N)C | C4H6N2
reactant | HCl | Cl | ClH
product | 5-Amino-1(3-trifluoromethylphenyl)-3-methylpyrazole hydrochloride | Cl.NC1=CC(=NN1C1=CC(=CC=C1)C(F)(F)F)C | InChI=1S/C11H10F3N3.ClH/c1-7-5-10(15)17(16-7)9-4-2-3-8(6-9)11(12,13)14;/h2-6H,15H2,1H3;1H
